US06054605
2,3-dichloro-6-trifluoromethylbenzoic acid (Compound No. 11)
83.4 g of 3,4-dichlorobenzotrifluoride was dissolved in 800 ml of dried tetrahydrofuran, and 250 ml of hexane solution of n-butyl lithium(1.6 mol/1) was added to the solution dropwise over 15 minutes at -78° C. under nitrogen atmosphere. Following to stirring the solution for 2 hours at -78° C., 50 g of dry ice was then gradually added to the solution at the same temperature. After elevating the temperature of the solution up to room temperature, 250 ml of cold water was added to the solution to separate the resulting solution, and the aqueous layer obtained was adjusted to an acidic condition of a pH value of 1 with concentrated hydrochloric acid while cooling. Then, the aqueous layer was extracted with ether, and the extract was washed with water and dried over anhydrous magnesium sulfate. The solvent was distilled out under reduced pressure, and the oily residue obtained was crystalized with n-hexane, washed, filtered, and dried to obtain 89 g of the title compound(mp. 88-89° C.).

reactant | 3,4-dichlorobenzotrifluoride | 83.4 g | ClC=1C=C(C=CC1Cl)C(F)(F)F | C7H3Cl2F3
reactant | n-butyl lithium | 1.6 mol | C(CCC)[Li]
reactant | dry ice | 50 g | C(=O)=O | CO2
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 800 ml | O1CCCC1 | C4H8O
solvent | water | 250 ml | O | H2O
solvent | hexane | 250 ml | CCCCCC | C6H14
product | 2,3-dichloro-6-trifluoromethylbenzoic acid | 89 g | ClC1=C(C(=O)O)C(=CC=C1Cl)C(F)(F)F | C8H3Cl2F3O2
